US05180735
Fumagillol (500 mg) was dissolved in pyrrolidine (1 ml), and the solution was stirred at 50° C. overnight. Excess volume of pyrrolidine was distilled off under reduced pressure to leave 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-(pyrrolidin-1-yl)methyl-1,4-cyclohexanediol as a crude product. This crude product was dissolved in chloroform (5 ml), to which was added m-chloroperbenzoic acid (458 mg), and the mixture was stirred for 30 minutes. The solvent was distilled off under reduced pressure, and the residue was purified by means of a silica gel column chromatography (carrier 25 g, developing solvent: chloroform - methanol - ammoniacal water=15:1:0.1) to obtain 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-(pyrrolidin-1-yl)methyl-1,4-cyclohexanediol N-oxide (554 mg: yield 84%) as colorless powder.

reactant | Fumagillol | 500 mg | CC(=CC[C@@H]1[C@@](O1)(C)[C@H]2[C@@H]([C@@H](CC[C@]23CO3)O)OC)C | C16H26O4
reactant | pyrrolidine | 1 ml | N1CCCC1 | C4H9N
product | 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-(pyrrolidin-1-yl)methyl-1,4-cyclohexanediol | O1C(C1CC=C(C)C)(C)C1C(CCC(C1OC)O)(O)CN1CCCC1 | C20H35NO4
